* Subcircuit Subcircuit_SN74LS11
.subckt Subcircuit_SN74LS11 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_c1-pad2_ net-_r1-pad1_ gndpwr net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_c2-pad2_ net-_c3-pad2_ 
* c:\fossee\esim\library\subcircuitlibrary\subcircuit_sn74ls11\subcircuit_sn74ls11.cir
.include D.lib
.include NPN.lib
r1  net-_r1-pad1_ net-_q1-pad2_ 20k
r2  net-_r1-pad1_ net-_q1-pad1_ 10k
q1 net-_q1-pad1_ net-_q1-pad2_ net-_d1-pad1_ Q2N2222
q2 net-_q2-pad1_ net-_q1-pad1_ net-_c1-pad1_ Q2N2222
q4 net-_q4-pad1_ net-_q2-pad1_ net-_q4-pad3_ Q2N2222
r4  net-_r1-pad1_ net-_q2-pad1_ 8k
r7  net-_r1-pad1_ net-_q4-pad1_ 120
* u2  gndpwr net-_u1-pad1_ zener
* u3  gndpwr net-_u1-pad2_ zener
* u4  gndpwr net-_u1-pad3_ zener
* u7  net-_q1-pad2_ net-_u1-pad3_ zener
* u6  net-_q1-pad2_ net-_u1-pad2_ zener
d1 net-_d1-pad1_ gndpwr 1N4148
c1  net-_c1-pad1_ net-_c1-pad2_ 10pf
r3  net-_c1-pad1_ net-_q3-pad2_ 1.5k
r5  net-_c1-pad1_ net-_q3-pad1_ 3k
q3 net-_q3-pad1_ net-_q3-pad2_ gndpwr Q2N2222
q6 net-_c1-pad2_ net-_c1-pad1_ gndpwr Q2N2222
* u9  net-_r6-pad2_ net-_q2-pad1_ zener
r6  net-_c1-pad2_ net-_r6-pad2_ 5k
q5 net-_q4-pad1_ net-_q4-pad3_ net-_c1-pad2_ Q2N2222
* u5  net-_q1-pad2_ net-_u1-pad1_ zener
r15  net-_r1-pad1_ net-_q13-pad2_ 20k
r16  net-_r1-pad1_ net-_q13-pad1_ 10k
q13 net-_q13-pad1_ net-_q13-pad2_ net-_d3-pad1_ Q2N2222
q14 net-_q14-pad1_ net-_q13-pad1_ net-_c3-pad1_ Q2N2222
q16 net-_q16-pad1_ net-_q14-pad1_ net-_q16-pad3_ Q2N2222
r18  net-_r1-pad1_ net-_q14-pad1_ 8k
r21  net-_r1-pad1_ net-_q16-pad1_ 120
* u16  gndpwr net-_u1-pad10_ zener
* u17  gndpwr net-_u1-pad11_ zener
* u18  gndpwr net-_u1-pad12_ zener
* u21  net-_q13-pad2_ net-_u1-pad12_ zener
* u20  net-_q13-pad2_ net-_u1-pad11_ zener
d3 net-_d3-pad1_ gndpwr 1N4148
c3  net-_c3-pad1_ net-_c3-pad2_ 10pf
r17  net-_c3-pad1_ net-_q15-pad2_ 1.5k
r19  net-_c3-pad1_ net-_q15-pad1_ 3k
q15 net-_q15-pad1_ net-_q15-pad2_ gndpwr Q2N2222
q18 net-_c3-pad2_ net-_c3-pad1_ gndpwr Q2N2222
* u22  net-_r20-pad2_ net-_q14-pad1_ zener
r20  net-_c3-pad2_ net-_r20-pad2_ 5k
q17 net-_q16-pad1_ net-_q16-pad3_ net-_c3-pad2_ Q2N2222
* u19  net-_q13-pad2_ net-_u1-pad10_ zener
r8  net-_r1-pad1_ net-_q7-pad2_ 20k
r9  net-_r1-pad1_ net-_q7-pad1_ 10k
q7 net-_q7-pad1_ net-_q7-pad2_ net-_d2-pad1_ Q2N2222
q8 net-_q10-pad2_ net-_q7-pad1_ net-_c2-pad1_ Q2N2222
q10 net-_q10-pad1_ net-_q10-pad2_ net-_q10-pad3_ Q2N2222
r11  net-_r1-pad1_ net-_q10-pad2_ 8k
r14  net-_r1-pad1_ net-_q10-pad1_ 120
* u8  gndpwr net-_u1-pad4_ zener
* u10  gndpwr net-_u1-pad5_ zener
* u11  gndpwr net-_u1-pad6_ zener
* u14  net-_q7-pad2_ net-_u1-pad6_ zener
* u13  net-_q7-pad2_ net-_u1-pad5_ zener
d2 net-_d2-pad1_ gndpwr 1N4148
c2  net-_c2-pad1_ net-_c2-pad2_ 10pf
r10  net-_c2-pad1_ net-_q9-pad2_ 1.5k
r12  net-_c2-pad1_ net-_q9-pad1_ 3k
q9 net-_q9-pad1_ net-_q9-pad2_ gndpwr Q2N2222
q12 net-_c2-pad2_ net-_c2-pad1_ gndpwr Q2N2222
* u15  net-_r13-pad2_ net-_q10-pad2_ zener
r13  net-_c2-pad2_ net-_r13-pad2_ 5k
q11 net-_q10-pad1_ net-_q10-pad3_ net-_c2-pad2_ Q2N2222
* u12  net-_q7-pad2_ net-_u1-pad4_ zener
a1 gndpwr net-_u1-pad1_ u2
a2 gndpwr net-_u1-pad2_ u3
a3 gndpwr net-_u1-pad3_ u4
a4 net-_q1-pad2_ net-_u1-pad3_ u7
a5 net-_q1-pad2_ net-_u1-pad2_ u6
a6 net-_r6-pad2_ net-_q2-pad1_ u9
a7 net-_q1-pad2_ net-_u1-pad1_ u5
a8 gndpwr net-_u1-pad10_ u16
a9 gndpwr net-_u1-pad11_ u17
a10 gndpwr net-_u1-pad12_ u18
a11 net-_q13-pad2_ net-_u1-pad12_ u21
a12 net-_q13-pad2_ net-_u1-pad11_ u20
a13 net-_r20-pad2_ net-_q14-pad1_ u22
a14 net-_q13-pad2_ net-_u1-pad10_ u19
a15 gndpwr net-_u1-pad4_ u8
a16 gndpwr net-_u1-pad5_ u10
a17 gndpwr net-_u1-pad6_ u11
a18 net-_q7-pad2_ net-_u1-pad6_ u14
a19 net-_q7-pad2_ net-_u1-pad5_ u13
a20 net-_r13-pad2_ net-_q10-pad2_ u15
a21 net-_q7-pad2_ net-_u1-pad4_ u12
* Schematic Name:                             zener, NgSpice Name: zener
.model u2 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u3 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u4 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u7 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u6 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u9 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u5 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u16 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u17 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u18 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u21 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u20 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u22 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u19 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u8 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u10 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u11 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u14 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u13 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u15 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u12 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Control Statements

.ends Subcircuit_SN74LS11