* c:\users\aditya\esim-workspace\sn74lv3t97ep_test\sn74lv3t97ep_test.cir

.include SN74LV3T97_EP.sub
v8 net-_x1-pad14_ gnd  dc 5
r1  op_y1 gnd 10000k
v1  ip_a1 gnd pulse(0 0 1m 2m 2m 5 10)
v2  ip_b1 gnd pulse(0 5 1m 2m 2m 10 20)
v3  ip_c1 gnd pulse(0 5 1m 2m 2m 17.5 35)
v4  ip_a2 gnd pulse(0 5 1m 2m 2m 5 10)
v6  ip_a3 gnd pulse(5 5 1m 2m 2m 10 10)
v7  ip_b3 gnd pulse(0 5 1m 2m 2m 10 20)
v9  ip_c2 gnd pulse(0 0 1m 2m 2m 5 5)
v10  ip_c3 gnd pulse(0 5 1m 2m 2m 5 10)
v5  ip_b2 gnd pulse(0 5 1m 2m 2m 10 20)
r2  op_y2 gnd 10000k
r3  op_y3 gnd 10000k
* u1  ip_a1 plot_v1
* u2  ip_b1 plot_v1
* u3  ip_a2 plot_v1
* u4  ip_b2 plot_v1
* u5  ip_a3 plot_v1
* u6  ip_b3 plot_v1
* u7  ip_c1 plot_v1
* u8  ip_c2 plot_v1
* u11  ip_c3 plot_v1
* u9  op_y1 plot_v1
* u10  op_y2 plot_v1
* u12  op_y3 plot_v1
x1 ip_a1 ip_b1 ip_a2 ip_b2 ip_a3 ip_b3 gnd op_y3 ip_c3 op_y2 ip_c2 op_y1 ip_c1 net-_x1-pad14_ SN74LV3T97_EP
.tran 0.01e-00 50e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(ip_a1)
plot v(ip_b1)
plot v(ip_a2)
plot v(ip_b2)
plot v(ip_a3)
plot v(ip_b3)
plot v(ip_c1)
plot v(ip_c2)
plot v(ip_c3)
plot v(op_y1)
plot v(op_y2)
plot v(op_y3)
.endc
.end
